US07459472B2
To a solution of 5-methyl-pyrazine-2-carboxylic acid methyl ester (2.0 g, 13.146 mmol) in CCl4 (25 mL0 was added NBS (2.57 g, 14.461 mmol) and benzoyl peroxide (0.318 g, 1.314 mmol) and the solution was heated at 70 C. for 1 h. Upon cooling to RT, the organic layer was washed with NaHCO3, water, dried (Na2SO4), and concentrated under reduced pressure to give 0.900 g 5-Bromomethyl-pyrazine-2-carboxylic acid methyl ester.

reactant | 5-methyl-pyrazine-2-carboxylic acid methyl ester | 13.146 mmol, 2.0 g | COC(=O)C1=NC=C(N=C1)C | C7H8N2O2
reactant | NBS | 14.461 mmol, 2.57 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 1.314 mmol, 0.318 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromomethyl-pyrazine-2-carboxylic acid methyl ester | 0.900 g | COC(=O)C1=NC=C(N=C1)CBr | C7H7BrN2O2
